US20010052156A1
1.3.12. Preparation of N-(5-Amino-2-Nitrophenyl)Morpholine
Step b) was carried out in the same way as Example 1.3.3. step b) by reacting N-(5-acetylamino-2-nitrophenyl)morpholine with hydrochloric acid.

reactant | N-(5-acetylamino-2-nitrophenyl)morpholine | C(C)(=O)NC=1C=CC(=C(C1)N1CCOCC1)[N+](=O)[O-] | C12H15N3O4
reactant | hydrochloric acid | Cl | ClH
product | N-(5-Amino-2-Nitrophenyl)Morpholine | NC=1C=CC(=C(C1)N1CCOCC1)[N+](=O)[O-] | C10H13N3O3
